US06437147B1
At 0° C. a solution of 4-trifluoromethylcyclohexanecarboxylic acid amide (1.38 g, 7.07 mmol) in THF (20 ml) was added to a suspension of sodium borohydride (0.64 g, 16.97 mmol) in THF (20 ml). A solution of iodine (1.79 g, 7.07 mmol) in THF (20 ml) was added dropwise. The reaction mixture was heated to reflux for 16 hours. It was cooled to 0° C. Methanol (40 ml) was added dropwise. The solvent was removed in vacuo. The residue was dissolved in tert-butyl methyl ether (100 ml) and a 20% aqueous solution of sodium hydroxide. The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (2×70 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using DCM/methanol/25% aqueous ammonia (first 100:10:1; then 50:10:1) as eluent, to give 124 mg of ((4-trifluoromethylcyclohexyl)methyl)amine.

reactant | 4-trifluoromethylcyclohexanecarboxylic acid amide | 7.07 mmol, 1.38 g | FC(C1CCC(CC1)C(=O)N)(F)F | C8H12F3NO
reactant | sodium borohydride | 16.97 mmol, 0.64 g | [BH4-].[Na+]
reactant | iodine | 7.07 mmol, 1.79 g | II | I2
reactant | Methanol | 40 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ((4-trifluoromethylcyclohexyl)methyl)amine | 124 mg | FC(C1CCC(CC1)CN)(F)F | C8H14F3N
